US07612075B2
D. 5-Chloro-2-thienyloxyacetic acid.
To a solution of ethyl 5-chloro-2-thienyloxyacetate (0.39 g, 1.77 mmol) in 9 mL of a 1:1:1 mixture of CH3OH:THF:water is added LiOH (0.38 g, 9.0 mmol). The solution is stirred for 16 hours. After this time, the solution is concentrated to ⅓ its volume. The resulting solution is acidified to pH=3 with 1N HCl. The aqueous solution is extracted with CH2Cl2. The organic layer is dried over MgSO4, filtered and concentrated under vacuum. The title compound (0.32 g, 1.66 mmol) is obtained as a white solid. 1H NMR (CDCl3, 300 MHz) δ6.50 (d, 1H), 6.07 (d, 1H), 4.66 (s, 2H).

reactant | ethyl 5-chloro-2-thienyloxyacetate | 1.77 mmol, 0.39 g | ClC1=CC=C(S1)OCC(=O)OCC | C8H9ClO3S
reactant | CH3OH | CO | CH4O
reactant | THF | C1CCOC1 | C4H8O
reactant | LiOH | 9.0 mmol, 0.38 g | [Li+].[OH-]
solvent | water | O | H2O
product | 5-Chloro-2-thienyloxyacetic acid | 1.66 mmol, 0.32 g | ClC1=CC=C(S1)OCC(=O)O | C6H5ClO3S
